data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1(OC2[CH+:22][CH:21]=[CH:20]C(C2O1)OC[C:10]3=[C:11](C4=C(C=C3)OCO4)Br)C>>CC1(OC2[CH:22]=[CH:21][CH:20]3C(C2O1)OC[C:10]34C=CC5=C([C+:11]4Br)OCO5)C 10,11=10,20;20,21=21,22
[H:20][C:21]1(CCCC([CH:22]1[Cl:23])C)CC.[OH-:10]>>[H:20][OH:10].CC[C:21]1=[CH:22]C(CCC1)C.[Cl-:23] 10=20;22,23=23;20,21=21,22
CCCCC[P:10](CC)CCC.CCC1=C2C(=C(C=C1)C)N=C(S2)[S:20][S:21]C3=NC4=C(S3)C(=CC=C4C)CC.CCC1=C(C=CC(=C1)C)C(C)O>>CCCCC[P+:10](CC)(CCC)[S:20]C1=NC2=C(C=CC(=C2S1)CC)C.CCC1=CC=C(C2=C1SC(=N2)[S-:21])C.CCC1=C(C=CC(=C1)C)C(C)O 10=20;20,21=21
CC[OH:10].C[Si](C)(C)OCC[C:20](=[OH+:21])O>>CC[OH+:10][C:20](CCO[Si](C)(C)C)(O)[OH:21] 10=20;20,21=21
C1CC2C(C1)[C:20]2=[O:21].[OH:10][Na].[OH2+][Na].[Cl-]>>C1CC2C(C1)[C:20]2([O-:21])[OH+:10][Na].[OH2+][Na].[Cl-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CCC(CC1)(N2CCCCC2)[O-:10]>>[H:20][O:10]C1(CCCCC1)N2CCCCC2.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[CH+:20][O:10][Zn-](Cl)Cl>>C[CH:20]=[O+:10][Zn-](Cl)Cl 10=20,
CC(=O)O[C:20](=[O:21])C.COC1=CC(=CC(=C1OC)OC)CC(=O)[O-:10].CC[NH+](CC)CC.COC1=C(C=C(C=C1)C=O)O>>CC(=O)O[C:20](C)([O-:21])[O:10]C(=O)CC1=CC(=C(C(=C1)OC)OC)OC.CC[NH+](CC)CC.COC1=C(C=C(C=C1)C=O)O 10=20;20,21=21
[H:20][O+:21](CC)CC.[B-]([O+]=C1C(C(OC2=C1C(=CC(=C2)O)O)[N:10](C)C)C3=CC=C(C=C3)O)(F)(F)F.O=P(Cl)(Cl)Cl.[Cl-]>>[H:20][N+:10](C)(C)C1C(C(=[O+][B-](F)(F)F)C2=C(O1)C=C(C=C2O)O)C3=CC=C(C=C3)O.CC[O:21]CC.O=P(Cl)(Cl)Cl.[Cl-] 10=20;20,21=21
C[S+:21]1C[CH2:20]1.[I-:10]>>C[S:21]C[CH2:20][I:10] 10=20;20,21=21
CO[C:13]1=[C:12]([CH:11]=[CH:10]C=C1)Br.O[S+:20](=O)=O>>CO[C+:13]1C=C[CH:10]([CH:11]=[C:12]1Br)[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
[H:20][CH2:21][O:22][S+:23](C)[CH2-:10]>>[H:20][CH2:10][S:23]C.[CH2:21]=[O:22] 10=20;22,23=23;20,21=21,22
CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OC[CH:20]=[O:21].C1=CC2=C(C=C1)NC=C2CC(CC#N)[NH2:10].C1=CC2=C(C=C1)NC=C2CC(CC#N)[NH3+]>>CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OC[CH:20]([NH2+:10]C(CC#N)CC3=CNC4=C3C=CC=C4)[O-:21].C1=CC2=C(C=C1)NC=C2CC(CC#N)[NH3+] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.C=C(CC1(C=CC(=O)C=C1)CCCC(C2=[N+](N=C3N2CCC3)C4=C(C(=C(C(=C4F)F)F)F)F)[O-:10])Br.[B-](F)(F)(F)F>>[H:20][O:10]C(CCCC1(C=CC(=O)C=C1)CC(=C)Br)C2=[N+](N=C3N2CCC3)C4=C(C(=C(C(=C4F)F)F)F)F.CC[N:21](CC)CC.[B-](F)(F)(F)F 10=20;20,21=21
CC[C:20]1(C([OH+:21]1)C)C.CC[OH:10]>>CC[C:20](C)(C(C)[OH:21])[OH+:10]CC 10=20;20,21=21
CN1CCCO[C:20]1([O-:10])[Cl:21]>>CN1CCCO[C:20]1=[O:10].[Cl-:21] 10=20;20,21=21
CCC[NH2:10].C1=CC=C(C=C1)[CH2:20][Br:21]>>CCC[NH2+:10][CH2:20]C1=CC=CC=C1.[Br-:21] 10=20;20,21=21
[H:20][O:21]C(C)(C)C#N.[OH-:10]>>[H:20][OH:10].CC(C)(C#N)[O-:21] 10=20;20,21=21
CC1=CCCC[N:10]1C.[CH3:20][I:21]>>CC1=CCCC[N+:10]1(C)[CH3:20].[I-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)[O-].CN(C)C(OC)[O:10]C.CC(=O)C1=CC=C(C=C1)Cl.C1(=NN=NN1)N>>[H:20][O+:10](C)C(N(C)C)OC.[O-:21]S(=O)(=O)[O-].CC(=O)C1=CC=C(C=C1)Cl.C1(=NN=NN1)N 10=20;20,21=21
C1CC[C+:20](C(C1)Cl)N2CCCC2.[OH2:10]>>C1CC[C:20](C(C1)Cl)(N2CCCC2)[OH2+:10] 10=20,
CC(=O)O[C:20](=[O:21])C=C.[OH-:10]>>CC(=O)O[C:20](C=C)([OH:10])[O-:21] 10=20;20,21=21
C[C:20](=[OH+:21])CCC1(CCC[C:10](=[C:11]1[OH:12])Br)C(=O)OC.OS(=O)(=O)[O-]>>C[C:20]1(CCC2(CCC[C:10]1([C:11]2=[OH+:12])Br)C(=O)OC)[OH:21].OS(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C=C(O[CH+:22]1)S(=O)(=O)O)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]OC(=C1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][C:21]1(C=CC=C[C+:22]1CC#C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C#CC[C:22]1=[C:21](C=CC=C1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][OH:21].CC(=O)C(C1=CC=CC=C1)C(C)(CC2=CC=CC=C2)[O-:10]>>[H:20][O:10]C(C)(CC1=CC=CC=C1)C(C2=CC=CC=C2)C(=O)C.[OH-:21] 10=20;20,21=21
[H:20][C:21]1(C=C(C=C([CH+:22]1)[N+](=O)[O-])Cl)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C([CH:22]=[C:21](C=C1Cl)S(=O)(=O)O)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][CH2:21][C:22](=[O:23])N(C)C.[NH2-:10]>>[H:20][NH2:10].CN(C)[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)[C:20]4(C1=NC5=C([NH:10]4)C=CC(=C5)C(=O)C6=CC=CC=C6)[OH2+:21])C.CCO.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)N)N.O.[Cl-]>>CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)[C:20]4=[NH+:10]C5=C(C=C(C=C5)C(=O)C6=CC=CC=C6)N=C41)C.[OH2:21].CCO.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)N)N.O.[Cl-] 10=20;20,21=21
CCS[C:20](C=C)([OH:10])[O:21]C(=O)C>>CCS[C:20](=[OH+:10])C=C.CC(=O)[O-:21] 10=20;20,21=21
C[CH:20]=[O+:21]CCC[NH:10]C>>C[CH:20]1[NH+:10](CCC[O:21]1)C 10=20;20,21=21
CCC(=O)N[C:11]1=[CH:10]C=C(C=C1Br)Br.[Br:20][Br:21]>>CCC(=O)N[C+:11]1[CH:10](C=C(C=C1Br)Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CC[O:21][C:20](C)(C(C)(OCC)O[Na])[O:10][Na]>>CC[O-:21].CCOC(C)([C:20](=[O+:10][Na])C)O[Na] 10=20;20,21=21
[H:20][N:21]([C:22](=[O:23])C1C(C=CC(C1CCCC#N)O)CC)[N+](C)(C)C.[I-:10].C(=O)([O-])O[K].[K+]>>[H:20][I:10].CCC1C=CC(C(C1[C:22](=[N:21][N+](C)(C)C)[O-:23])CCCC#N)O.C(=O)([O-])O[K].[K+] 10=20;22,23=23;20,21=21,22
CN(C)C(=[NH:10])N(C)C.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>CN(C)C(=[NH+:10][CH2:20]C1=CC=C(C=C1)C#N)N(C)C.[Br-:21] 10=20;20,21=21
C[CH:20]([N:10](C)C)[OH+:21]C>>C[CH:20]=[N+:10](C)C.C[OH:21] 10=20;20,21=21
